US04532254
(3) Preparation of 3',4'-dihydroxy-5,6,7,8-tetramethoxyflavone (LARI-4)
Into 200 ml. of a mixed solvent of ethyl acetate and methanol at a ratio of 1:1 was dissolved 1.11 g. of 3',4'-bis(benzyloxy)-5,6,7,8-tetramethoxyflavone and added 0.2 to 0.3 g. of 10% palladium-charcoal. The resulting mixture was mixed with shaking in a stream of H2 gas until H2 absorption was completed. After filtering out the catalyst, the obtained filtrate was concentrated. The residue was recrystallized from methanol to give 0.74 g. (97% of the theoretical amount) of the desired compound being a colorless prismatic crystal.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 3',4'-bis(benzyloxy)-5,6,7,8-tetramethoxyflavone | C(C1=CC=CC=C1)OC=1C=C(C=2OC3=C(C(=C(C(=C3C(C2)=O)OC)OC)OC)OC)C=CC1OCC1=CC=CC=C1 | C33H30O8
catalyst | palladium-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3',4'-dihydroxy-5,6,7,8-tetramethoxyflavone | OC=1C=C(C=2OC3=C(C(=C(C(=C3C(C2)=O)OC)OC)OC)OC)C=CC1O | C19H18O8
